US04176185
A solution of 0.500 g (2.51 mmol) of potassium cyanide and 0.280 g (4.27 mmol) of ammonium carbonate in 1.5 ml water was added to a solution of 130 mg (0.65 mmol) of pyrano[3,2-h]quinolin-4-one in 1.5 ml of ethanol at 60° C. The reaction mixture was held at this temperature for 72 hours then added to 20 ml of water and boiled for 20 minutes. The basic mixture was extracted with 3×50 ml chloroform and the mixture was acidified with 1 N hydrochloric acid. The solid obtained after filtration and drying in vacuo (96 mg) was twice recrystallized from ethanol yielding spiro[imidazolidin-4,4'-pyrano[3,2-h]quinolin]-2,5-dione, (36.0 mg), m.p. 305° C. (dec).

reactant | potassium cyanide | 2.51 mmol, 0.500 g | [C-]#N.[K+]
reactant | ammonium carbonate | 4.27 mmol, 0.280 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | pyrano[3,2-h]quinolin-4-one | 0.65 mmol, 130 mg | O1C=CC(C=2C=CC=3C=CC=NC3C21)=O | C12H7NO2
reactant | water | 1.5 ml | O | H2O
reactant | water | 20 ml | O | H2O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | spiro[imidazolidin-4,4'-pyrano[3,2-h]quinolin]-2,5-dione | 36.0 mg | O1C=CC2(C=3C=CC=4C=CC=NC4C31)NC(NC2=O)=O | C14H9N3O3
